US09403805B2
To a stirred solution of (2S,4R)-4-tert-butoxy-pyrrolidine-1,2-dicarboxylic acid 1-benzyl ester (10.78 g, 33.54 mmol) and 1-amino-propan-2-one (2.45 g, crude, 33.54 mmol) in dichlormethane (56 mL) were added EDC.HCl (6.405 g, 33.54 mmol), HOBt (5.128 g, 33.54 mmol) and triethylamine (12.67 mL, 100.62 mmol). The mixture was stirred at room temp. for 24 h. The reaction mixture was then diluted with water, extracted with dichloromethane and washed with water and brine. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated. The crude was then purified by column chromatography to give (2S,4R)-4-tert-butoxy-2-(2-oxo-propylcarbamoyl)-pyrrolidine-1-carboxylic acid benzyl ester (7 g, 55.4% yield) as a light brown liquid. MS calcd. for C20H29N2O5 [(M+H)+] 377.0, obsd. 377.4.

reactant | (2S,4R)-4-tert-butoxy-pyrrolidine-1,2-dicarboxylic acid 1-benzyl ester | 33.54 mmol, 10.78 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)OC(C)(C)C)C(=O)O | C17H23NO5
reactant | 1-amino-propan-2-one | 33.54 mmol, 2.45 g | NCC(C)=O | C3H7NO
reactant | EDC.HCl | 33.54 mmol, 6.405 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 33.54 mmol, 5.128 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 100.62 mmol, 12.67 mL | C(C)N(CC)CC | C6H15N
solvent | dichlormethane | 56 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | (2S,4R)-4-tert-butoxy-2-(2-oxo-propylcarbamoyl)-pyrrolidine-1-carboxylic acid benzyl ester | 7 g, 55.4% yield | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)OC(C)(C)C)C(NCC(C)=O)=O | C20H28N2O5
